US06248738B1
Mercury (II) chloride (192 mg, 0.707 mmol) was added in one portion to a stirred mixture of 3-aminoisoquinoline (84.5 mg, 0.586 mmol), N,N′-di-t-butoxycarbonyl-S-methylisothiourea (Bergeron, R. J.; McManis, J. S. J. Org. Chem. 1987, 52, 1700-1703) (204 mg, 0.703 mmol), and triethylamine (250 μL, 1.79 mmol) in CH2Cl2 (3.0 mL) under N2 at 23° C. The mixture was stirred for 26 hours and then directly purified by column chromatography upon silica gel using hexanes-EtOAc (98:2 to 95:5) as eluant to give 3-(N′,N″-di-t-butoxycarbonyl-N-guanidinyl)isoquinoline (189.4 mg, 0.492 mmol) as a white solid.

reactant | 3-aminoisoquinoline | 0.586 mmol, 84.5 mg | NC=1N=CC2=CC=CC=C2C1 | C9H8N2
reactant | N,N′-di-t-butoxycarbonyl-S-methylisothiourea | 0.703 mmol, 204 mg | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | triethylamine | 1.79 mmol, 250 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
catalyst | Mercury (II) chloride | 0.707 mmol, 192 mg | [Hg](Cl)Cl
product | 3-(N′,N″-di-t-butoxycarbonyl-N-guanidinyl)isoquinoline | 0.492 mmol, 189.4 mg | C(C)(C)(C)OC(=O)NC(NC=1N=CC2=CC=CC=C2C1)=NC(=O)OC(C)(C)C | C20H26N4O4
